US07622589B2
52A) 5-Bromo-2-tert-butylpyridine
To a THF (40 ml) suspension of copper cyanide (1.79 g, 20 mmol) which was dried under reduced pressure for 4 hours was added 1.0 M THF solution of tert-butylmagnesium chloride (40 ml, 40 mmol) dropwise at −78° C. over 30 minutes and the mixture was stirred for 1 hour at −78° C. 5-Bromo-2-iodopyridine (2.83 g, 10 mmol) was added at −78° C. and the mixture was stirred for 1 hour at −78° C., followed by additional stirring for 16 hours at room temperature. Then, the reaction was quenched with 25% aqueous ammonia solution (40 ml) and the precipitates were removed by filtration and washed with EtOAc. The filtrate and washings were combined and concentrated in vacuo. Then, filtration, evaporation, and purification by silica gel column chromatography, eluting with hexane/EtOAc (20:1), gave the title compound (1.07 g, 50% yield) as a colorless oil.

reactant | copper cyanide | 20 mmol, 1.79 g | [Cu](C#N)C#N
reactant | tert-butylmagnesium chloride | 40 mmol, 40 ml | C(C)(C)(C)[Mg]Cl
reactant | 5-Bromo-2-iodopyridine | 10 mmol, 2.83 g | BrC=1C=CC(=NC1)I | C5H3BrIN
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 5-Bromo-2-tert-butylpyridine | 1.07 g, 50% yield | BrC=1C=CC(=NC1)C(C)(C)C | C9H12BrN
